US07968746B2
Following the amide coupling procedure described in protocol A, 502.3 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.01 mmol), 358 mg CDI (2.21 mmol) and 130 mg propylamine (2.20 mmol) produced 371 mg of 6-hydroxy-2,5,7,8-tetramethyl-N-propylchroman-2-carboxamide as an off white syrup.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.01 mmol, 502.3 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.21 mmol, 358 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | propylamine | 2.20 mmol, 130 mg | C(CC)N | C3H9N
product | 6-hydroxy-2,5,7,8-tetramethyl-N-propylchroman-2-carboxamide | 371 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCC)C)C | C17H25NO3
